US08304557B2
3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)benzoic acid
To a solution of methyl 3-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]benzoate (4.20 g, 13.9 mmol) and triethylamine (3.47 μL, 25.1 mmol) in tetrahydrofuran (40 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (1.52 mL, 16.7 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dissolved in ethanol (50 mL). 8N Aqueous sodium hydroxide solution (7 mL) was added thereto, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was adjusted to pH 4 with 6N hydrochloric acid, and the precipitated solid was collected by filtration and washed with water to give the title compound (3.90 g, 79%) as a white solid.

reactant | methyl 3-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]benzoate | 13.9 mmol, 4.20 g | NC=1SC2=NC(=CC=C2N1)OC=1C=C(C(=O)OC)C=CC1 | C14H11N3O3S
reactant | triethylamine | 25.1 mmol, 3.47 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 16.7 mmol, 1.52 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)benzoic acid | 3.90 g, 79% | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC=1C=C(C(=O)O)C=CC1 | C17H13N3O4S
